US06787544B2
In 5 mL of dimethyl sulfoxide is dissolved 0.42 g of L-alanyl-L-alanine trifluoroacetate. Then, 1.07 mL of triethylamine and 0.71 g of methyl 3-hydroxy-2-pyrazinecarboxylate are successively added to the solution, which is then stirred at 40° C. for 17 hours. The solvent is distilled off under reduced pressure, and 2 mL of water was added to the residue thus obtained. The deposited product is collected by filtration and purified by column chromatography [eluent: chloroform:methanol=30:1) to obtain 0.035 g of (2S)-2-[((2S)-2-{[(3-oxo-3,4-dihydro-2-pyrazinyl)carbonyl]amino}-propanoyl)amino]propanoic acid.

reactant | L-alanyl-L-alanine trifluoroacetate | 0.42 g | FC(C(=O)O)(F)F.N[C@@H](C)C(=O)N[C@@H](C)C(=O)O
reactant | triethylamine | 1.07 mL | C(C)N(CC)CC | C6H15N
reactant | methyl 3-hydroxy-2-pyrazinecarboxylate | 0.71 g | OC=1C(=NC=CN1)C(=O)OC | C6H6N2O3
solvent | dimethyl sulfoxide | 5 mL | CS(=O)C | C2H6OS
product | (2S)-2-[((2S)-2-{[(3-oxo-3,4-dihydro-2-pyrazinyl)carbonyl]amino}-propanoyl)amino]propanoic acid | 0.035 g | O=C1C(=NC=CN1)C(=O)N[C@H](C(=O)N[C@H](C(=O)O)C)C | C11H14N4O5
